US07582640B2
Synthesis of (1,1-dimethylethyl)3-[[5-ethyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate.
A mixture of 317 mg (0.79 mmoles) of 4-bromo-5-ethyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-pyrimidine, 279 mg (0.95 mmoles) of (1,1-dimethylethyl) 3-amino-N-[(phenylmethoxy)carbonyl]alaninate (prepared according to J. Med. Chem.(2001), 44(8), 1158-1176), 168 mg (1.11 mmoles) of caesium fluoride, 36 mg (0.04 mmoles) of tris(dibenzylideneacetone)dipalladium(0), 49 mg (0.08 mmoles) of S(−)2,2′-bis(diphenyl-phosphino)-1,1 ′-binaphthyl in 11 ml of dioxane is heated under reflux for 21 hours. After cooling down another 140 mg (0.48 mmoles) of (1,1-dimethylethyl) 3-amino-N-[(phenylmethoxy)carbonyl]alaninate, 168 mg (1.11 mmoles) of caesium fluoride, 36 mg (0.04 mmoles) of tris(dibenzylideneacetone)dipalladium(0), and 49 mg (0.08 mmoles) of S(−)2,2′-bis(diphenyl-phosphino)-1,1′-binaphthyl in 2 ml of dioxane are added and the reaction medium is heated under reflux for 3.5 hours. The reaction mixture is evaporated to dryness under reduced pressure (2 kPa) and the residue is taken up in ethyl acetate, water and a saturated solution of sodium bicarbonate. The organic phase is separated, dried over magnesium sulphate and the solvent is evaporated off under reduced pressure (2 kPa). The residue is chromatographed on silicagel eluting with a gradient of heptane-ethyl acetate-methanol 50-50-0, 25-75-0, 0-100-0, and finally 0-100-3. 400 mg (Yield=83%) of expected product is obtained in the form of an oil.

reactant | 4-bromo-5-ethyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-pyrimidine | 0.79 mmoles, 317 mg | BrC1=NC=NC(=C1CC)N1CCC(CC1)C1=CC=C2CCCNC2=N1 | C19H24BrN5
reactant | (1,1-dimethylethyl) 3-amino-N-[(phenylmethoxy)carbonyl]alaninate | 0.95 mmoles, 279 mg | NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C15H22N2O4
reactant | caesium fluoride | 1.11 mmoles, 168 mg | [F-].[Cs+]
reactant | (1,1-dimethylethyl) 3-amino-N-[(phenylmethoxy)carbonyl]alaninate | 0.48 mmoles, 140 mg | NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C15H22N2O4
reactant | caesium fluoride | 1.11 mmoles, 168 mg | [F-].[Cs+]
solvent | dioxane | 11 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.04 mmoles, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.04 mmoles, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1,1-dimethylethyl)3-[[5-ethyl-6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate | 400 mg, Yield=83% | CC(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CNC1=NC=NC(=C1CC)N1CCC(CC1)C1=CC=C2CCCNC2=N1)=O | C34H45N7O4
